US09353108B2
A) Dimethyl 2-vinylpyridine-3,5-dicarboxylate
A dichloromethane adduct of (1,1′-bis(diphenylphosphino)ferrocene)dichloropalladium(II) (0.359 g) was added to a mixture of dimethyl 2-chloropyridine-3,5-dicarboxylate (1.01 g), potassium vinyl trifluoroborate (1.18 g), triethylamine (1.22 mL), and ethanol (10 mL), and the resultant mixture was stirred at 95° C. for 1 hour in an argon atmosphere. The solvent in the reaction mixture was distilled off under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (880 mg).

reactant | dichloromethane | ClCCl | CH2Cl2
reactant | dimethyl 2-chloropyridine-3,5-dicarboxylate | 1.01 g | ClC1=NC=C(C=C1C(=O)OC)C(=O)OC | C9H8ClNO4
reactant | triethylamine | 1.22 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | Dimethyl 2-vinylpyridine-3,5-dicarboxylate | 880 mg | C(=C)C1=NC=C(C=C1C(=O)OC)C(=O)OC | C11H11NO4
